US07196079B2
N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamide
3-Amino-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine (25.6 mg, 0.0766 mmol) and p-nitrophenylchloroformate (15.3 mg, 0.0766 mmol) were dissolved in tetrahydrofuran (0.5 mL) under argon, and cooled to 0° C. Triethylamine (10.7 uL, 0.0766 mmol) was added and the reaction stirred for 1 h. Additional triethylamine was added (26.7 uL, 0.191 mmol) along with 3-(4-piperidinyl)quinolin-2-(1H)-one (17.5 mg, 0.0766 mmol). The reaction was warmed to room temperature and stirred overnight. The crude product was purified by reverse phase HPLC (C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid gradient elution) to give the title compound (30.2 mg). MS 588.2245 (M+1)

reactant | 3-Amino-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.0766 mmol, 25.6 mg | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | Triethylamine | 0.0766 mmol, 10.7 uL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-piperidinyl)quinolin-2-(1H)-one | 0.0766 mmol, 17.5 mg | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamide | 30.2 mg | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)C=1C(NC3=CC=CC=C3C1)=O)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C32H28F3N5O3
